US04156732
2-(4-Chloro-3-sulfamoylbenzoyl)-benzo[b]furan
4 g 2-Bromo-4'-chloro-3'-sulfamoylacetophenone and 1.63 g salicylaldehyde are maintained for 2 hours with agitation and with exclusion of moisture at a temperature of 80° C. in 50 ml anhydrous dimethyl formamide, in the presence of 2.9 g potassium carbonate ground under anhydrous conditions. After cooling, the batch is poured into a mixture of icewater and excess hydrochloric acid, extracted with ethyl acetate and dried over sodium sulfate. After having distilled off the solvent, crystallization is carried out from di-isopropyl ether and isopropanol. M.p. 152°-156° C. Recrystallization from glacial acetic acid after clarification with active charcoal gives colorless crystals having a melting point of 167°-170° C.

reactant | 2-Bromo-4'-chloro-3'-sulfamoylacetophenone | 4 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | salicylaldehyde | 1.63 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | potassium carbonate | 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(4-Chloro-3-sulfamoylbenzoyl)-benzo[b]furan | ClC1=C(C=C(C(=O)C2=CC3=C(O2)C=CC=C3)C=C1)S(N)(=O)=O | C15H10ClNO4S
